US06703392B2
2-[1-(3,4-dimethoxy-benzyl)-6-methoxy-7-(5-chloro-pyridin-2-yloxy)-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide:
prepared by reaction of 2-[1-(3,4-dimethoxy-benzyl)-7-hydroxy-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide with 2,5-dichloro-pyridine

reactant | 2-[1-(3,4-dimethoxy-benzyl)-7-hydroxy-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)O)OC)CC(=O)NC2CCC3=CC=CC=C23)C=CC1OC | C30H34N2O5
reactant | 2,5-dichloro-pyridine | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
product | 2-[1-(3,4-dimethoxy-benzyl)-6-methoxy-7-(5-chloro-pyridin-2-yloxy)-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC2=NC=C(C=C2)Cl)OC)CC(=O)NC2CCC3=CC=CC=C23)C=CC1OC | C35H36ClN3O5
